US06713474B2
A suspension of the 4-{4-amino-5-[4-(benzyloxy)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-1-cyclohexanone (1.22 g, 2.96 mmol) in dichloroethane (40 ml) was treated with N-methylpiperazine (0.889 g, 8.88 mmol) and glacial acetic acid (0.534 g, 8.88 mmol) at 0° C. for 1 hour. Subsequently, sodium triacetoxyborohydride (0.816 g, 3.85 mmol) was added and the reaction mixture was stirred overnight. Additional N-methylpiperazine (0.445 g, 4.44 mmol), sodium triaceoxyborohydride (0.407 g, 1.92 mmol), and glacial acetic acid (0.267 g, 4.44 mmol) were added and the reaction mixture was stirred for an additional 1.5 hour. To the reaction solution, a solution of sodium bicarbonate (1.49 g, 17.76 mmol) in 25 mL water was added and stirred for 1 hour. The aqueous layer was extracted with ethyl acetate (4×125 mL), The organic layers were combined, washed with water and brine (each 4×125 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure to give 1.6 g of crude material. The compound was purified by flash chromatography on silica gel using 10% methanol in dichloromethane, 20% methanol in dichloromethane, and then 30% methanol in dichloromethane. The column yielded 0.83 g (56%) of Cis-5-[4-(benzyloxy)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine, and 0.305 g (21%) of transs-5-[4-(benzyloxy)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine.

reactant | 4-{4-amino-5-[4-(benzyloxy)phenyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}-1-cyclohexanone | 2.96 mmol, 1.22 g | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OCC2=CC=CC=C2)C2CCC(CC2)=O | C25H24N4O2
reactant | N-methylpiperazine | 8.88 mmol, 0.889 g | CN1CCNCC1 | C5H12N2
reactant | acetic acid | 8.88 mmol, 0.534 g | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 3.85 mmol, 0.816 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | N-methylpiperazine | 4.44 mmol, 0.445 g | CN1CCNCC1 | C5H12N2
reactant | sodium | [Na] | Na
reactant | acetic acid | 4.44 mmol, 0.267 g | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 17.76 mmol, 1.49 g | C([O-])(O)=O.[Na+]
solvent | dichloroethane | 40 ml | ClC(C)Cl | C2H4Cl2
solvent | water | 25 mL | O | H2O
product | Cis-5-[4-(benzyloxy)phenyl]-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.83 g, 56% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@@H](CC2)N2CCN(CC2)C | C30H36N6O
